US07964608B2
1,3-Diisopropyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (21 mg) was prepared from 4-isopropylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (59.6 mg, 0.20 mmol) and isopropyl isocyanate (1.0 mmol) following general procedure C. LCMS: m/z 328 [M+1]+.

reactant | 4-isopropylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.20 mmol, 59.6 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC(C)C)OC | C16H20N2O3
reactant | isopropyl isocyanate | 1.0 mmol | C(C)(C)N=C=O | C4H7NO
product | 1,3-Diisopropyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 21 mg | C(C)(C)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C(C)C)=O | C18H21N3O3
